US08314087B2
This procedure was based on the method described in Antonio Abad, Consuelo Agulló, Ana Carmen Cuñat, Cristina Vilanova Synthesis, 2005, 915. To a 10 mL round-bottomed flask was added 2-(2-(2-chloropyridin-4-yloxy)ethyl)-6-phenylpyridazin-3(2H)-one (0.10 g, 0.31 mmol), pyrrolidine-1-carboxamide (0.038 g, 0.34 mmol) (see John E. Barry, Manuel Finkelstein, Gudrun A. Hutchins and Sidney D. Ross Tetrahedron 1983, 39, 2151-2156 and Charles A. Weisel, Harry S. Mosher, and F. C. Whitmore J. Am. Chem. Soc. 1945, 67, 1055), p-dioxane (2.5 mL), H2O (0.0082 mL, 0.46 mmol) and sodium tert-butoxide (0.044 g, 0.46 mmol). The mixture was carefully evacuated and backfilled with N2. This was repeated 3 times. To the mixture was added 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (0.018 g, 0.031 mmol) and palladium(II) acetate (0.0034 g, 0.015 mmol). Once again the mixture was carefully evacuated and backfilled with N2. This was repeated 3 times. The mixture was then stirred at 90° C. After 17 h, the mixture was poured into aq. NaHCO3 (100 mL) and extracted with EtOAc(3×75 mL). The combined extracts were washed with water (100 mL) and brine (100 mL) and then dried (Na2SO4) and concentrated onto silica. Purification by silica gel chromatography (1.0 to 5.0% MeOH (2M in NH3)/CH2Cl2) afforded N-(4-(2-(6-oxo-3-phenylpyridazin-1(6H)-yl)ethoxy)pyridin-2-yl)pyrrolidine-1-carboxamide (0.015 g, 12% yield) as a yellow solid. MS (ESI, pos. ion.) m/z: 406 (MH+). Calc'd exact mass for C22H23N5O3: 405. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.77-1.86 (m, 4 H), 3.33-3.40 (m, 4 H), 4.46-4.55 (m, 4 H), 6.58 (dd, J=5.8, 2.4 Hz, 1 H), 7.07 (d, J=9.8 Hz, 1 H), 7.43-7.50 (m, 3H), 7.52 (d, J=2.3 Hz, 1 H), 7.84-7.89 (m, 2 H), 8.00 (d, J=5.7 Hz, 1 H), 8.05 (d, J=9.8 Hz, 1 H), 8.51 (s, 1 H).

reactant | 2-(2-(2-chloropyridin-4-yloxy)ethyl)-6-phenylpyridazin-3(2H)-one | 0.31 mmol, 0.10 g | ClC1=NC=CC(=C1)OCCN1N=C(C=CC1=O)C1=CC=CC=C1 | C17H14ClN3O2
reactant | pyrrolidine-1-carboxamide | 0.34 mmol, 0.038 g | N1(CCCC1)C(=O)N | C5H10N2O
reactant | H2O | 0.46 mmol, 0.0082 mL | O | H2O
reactant | sodium tert-butoxide | 0.46 mmol, 0.044 g | CC(C)([O-])C.[Na+]
reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.031 mmol, 0.018 g | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
catalyst | palladium(II) acetate | 0.015 mmol, 0.0034 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | p-dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
product | N-(4-(2-(6-oxo-3-phenylpyridazin-1(6H)-yl)ethoxy)pyridin-2-yl)pyrrolidine-1-carboxamide | 0.015 g, 12% yield | O=C1C=CC(=NN1CCOC1=CC(=NC=C1)NC(=O)N1CCCC1)C1=CC=CC=C1 | C22H23N5O3
